US05004843
A hexane solution of n-butanol (77.1 mg; 1.0 mmol) was cooled to 0° C. under an argon atmosphere, and a hexane solution of n-butyllithium (1.0 ml) was added dropwise thereto and stirred. To the resulting solution, there was further dropwise added a hexane solution of n-octyllithium (1.2 mmol) and a hexane solution of 3-methyl-3,4-epoxybutene-1 (88.1 mg; 1.0 mmol), and after the addition was completed, the resulting mixture was cooled at 0° C. for 1 hour and at room temperature for 1.5 hours, followed by the usual work up. Removal of the solvent and distillation of the residue gave 150 mg of 2-methyl-2-dodecen-1-ol (yield, 75%; Z/E=93.0/7.0).

reactant | n-butanol | 1.0 mmol, 77.1 mg | C(CCC)O | C4H10O
reactant | n-butyllithium | 1.0 ml | C(CCC)[Li]
reactant | n-octyllithium | 1.2 mmol | C(CCCCCCC)[Li]
solvent | hexane | CCCCCC | C6H14
product | 2-methyl-2-dodecen-1-ol | 150 mg, 75% | CC(CO)=CCCCCCCCCC | C13H26O
